US04284779
To a solution of L-proline tert-butyl ester (0.85 g) and hydroxybenzotriazole (0.67 g) in methylene chloride (10 ml) chilled in an ice bath, dicyclohexylcarbodiimide (1.03 g) and N-tert-butyloxycarbonyl-S-methoxybenzyl-D-cysteine (1.7 g) are added in that order. After fifteen minutes, the ice bath is removed and the mixture is stirred at room temperature overnight. The precipitate is filtered off and the filtrate is washed with 10% potassium bisulfate, water, saturated sodium bicarbonate, and water. The organic phase is dried and concentrated to dryness in vacuo to give N-tert-butyloxycarbonyl-S-p-methoxybenzyl-D-cysteinyl-L-proline tert-butyl ester as an oil. Rf =0.2 (silica gel, chloroform).

reactant | L-proline tert-butyl ester | 0.85 g | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
reactant | hydroxybenzotriazole | 0.67 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 1.03 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-tert-butyloxycarbonyl-S-methoxybenzyl-D-cysteine | 1.7 g | C(C)(C)(C)OC(=O)N([C@H](CSOC)C(=O)O)CC1=CC=CC=C1 | C16H23NO5S
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-tert-butyloxycarbonyl-S-p-methoxybenzyl-D-cysteinyl-L-proline tert-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@H](NC(=O)OC(C)(C)C)CSCC1=CC=C(C=C1)OC)=O)=O | C25H38N2O6S
